Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with hx. depression/PTSD, polysubstance abuse (benzos, 
ETOH), seizures related to etoh/benzo withdrawal, HepC, p/w c/o 
seizure. Family witnessed patient undergo seizure at home that 
lasted approx 10 mins. Describe generalized tonic-clonic 
movements with no urinary incontinence, +tongue biting. Upon 
evaluation by EMS, patient was noted to be postictal. En route 
to hospital, patient had <___ seizure with urinary incontinence, 
received ativan x1. Family reports patient ran out of home 
klonipin 2 weeks ago. Receives #120 klonipin per week via his 
psychiatric provider, often exceeds his daily dose due to 
'addiction' according to his partner. Was apparently at ___ a 
few weeks ago with seizures attributed to combined benzo/alcohol 
withdrawa. Denies F/C, CP/SOB, abdominal pain. Did have fall 4 
days ago on stairs and hit his left side, no head strike.  
In the ED, initial VS: 97.9 120 140/80 22 99% RA. Labs were 
notable for CBC with H/H 12.9/39.3, plt 148, chem-7 unremarkable 
with BUN/Cr ___, u/a positive for protein and ketones. Urine 
tox was negative. Px. was given ativan 2mg IV x1 for witnessed 
seizure as well as diazepam 5mg x2.  
On arrival to the MICU, patient c/o 'pain' in his bilateral hips 
only releived by percocet.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies sinus tenderness, rhinorrhea or congestion. Denies 
cough, shortness of breath, or wheezing. Denies chest pain, 
chest pressure, palpitations, or weakness. Denies nausea, 
vomiting, diarrhea, constipation, abdominal pain, or changes in 
bowel habits. Denies dysuria, frequency, or urgency. Denies 
arthralgias or myalgias. Denies rashes or skin changes 

 
Past Medical History:
# depression/PTSD
# anxiety, agoraphobia
# polysubstance abuse (benzos, ETOH)
 - seizures related to etoh/benzo withdrawal
# HCV
# TB as a child
# hernated disks/chronic LBP
# hypothyroidism
# s/p Bil THR

 
Social History:
___
Family History:
Family History: Mother with emphysema. 
 
Physical Exam:
Physical Exam:  
Vitals: as per metavision  
General- awake, alert, tremulous, oriented x3 with some delay in 
answers  
HEENT- Sclera anicteric, MMM, oropharynx clear no lesions  
Neck- supple, JVP not elevated, no LAD  
Lungs- high pitched breath sounds posteriorly, no crackles or 
wheezes  
CV- RRR, no m/r/g appreciated  
Abdomen- soft, non-tender, BS+, nondistended, no r/g/r  
GU- no foley  
Ext- WWP, no edema  
Neuro- CNs2-12 intact, strength ___ in UE and ___ b/l, grossly 
tremulous  

 
Pertinent Results:
___ 05:08AM BLOOD WBC-5.1 RBC-3.91* Hgb-12.9* Hct-39.3* 
MCV-101* MCH-32.9* MCHC-32.7 RDW-14.7 Plt ___
___ 05:08AM BLOOD ___ PTT-30.8 ___
___ 05:08AM BLOOD Glucose-134* UreaN-6 Creat-0.8 Na-135 
K-4.4 Cl-100 HCO3-24 AnGap-15
___ 05:08AM BLOOD ALT-81* AST-163* AlkPhos-152* TotBili-0.6
___ 05:08AM BLOOD Albumin-3.9 Calcium-8.9 Phos-2.3* Mg-2.3
___ 05:08AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS
___ 05:EKG: sinus tach 24AM BLOOD Lactate-2.9*

# Head CT (___): No acute intracranial injury.  No evidence of 
an acute intracranial hemorrhage, edema, large vessel 
territorial infarction, or shift of the midline structures.  The 
sulci remain 
diffusely prominent while the ventricles are normal in size and 
configuration, stable since ___.  No acute fractures are 
identified. Unchanged deformity of the nasal bone.  There is new 
moderate left sphenoidal mucosal thickening; otherwise,the 
remainder of the  visualized mastoid air cells and paranasal 
sinuses are clear. 

# CXR Port (___): New left basilar opacities which are 
suggestive of atelectasis or aspiration in this clinical 
setting.  

# Hip x-ray (___): Unchanged appearance of post total hip 
replacements bilaterally.

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ with hx. depression/PTSD, polysubstance 
abuse (benzos, ETOH), seizures related to etoh/benzo withdrawal, 
HepC, p/w c/o seizure.

# Seizure: Mr. ___ was admitted with seizures x 2 attributed 
to benzo and/or alcohol withdrawal.  He had run out of his 
prescription over the past 1.5 wks and his last drink was 3 days 
ago.  He was reportedly recently hospitalized at ___ for 
benzo/EtOH withdrawal.  He was admitted to the MICU where he was 
placed on CIWA and received 40 mg valium over the course of the 
day.  He had no additional seizures.  He was transferred to the 
floor the following day and did well on a gradual taper of 
benzodiazepine.  He has a baseline anxiety and tremors - and 
thus the CIWA scale did not go below ___, but he did not have 
any physiological evidence of significant DTs or sympathetic 
hyperactivation.  
   SW was involved and the prospect of dual diagnosis inpatient 
stay was offered on a number of occasions.  The patient, 
however, opted not to go through with it and reported a desire 
to go through an outpt day program.  A list of programs was made 
available for him.  His partner was highly supportive of going 
through with this detox program.  Mr. ___ has a long history 
of addiction, polysubstance abuse: benzos, EtOH, narcotics - so 
it will be challenging. He was made aware that from here on out 
that he should be expected to go without benzos altogether 
(after requesting for short course of valium as an outpt).  He 
understood.  
   
# Transaminitis: mild likely ___ alcohol abuse. Also likely 
contributed by chronic HCV.  This was monitored and determined 
to be stable. 

# MDD/PTSD: on seroquel, fluoxetine, doxepin

# Chronic LBP, hip pain s/p fall, s/p Bil THR:
 - on lyrica, tylenol, NSAIDS, PRN
 - no narcotics.  Has narcotics agreement by outpatient 
providers. Pt understands

# Hypothyroidism: on levothyroxine

# FEN: No IVF, replete electrolytes, regular diet  
# Prophylaxis: SQ heparin  
# Access: PIVs (ok if without now)
# Communication: Patient, partner ___ ___  
# Code: Full  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 1 mg PO QID 
2. Pregabalin 100 mg PO QID 
3. Fluoxetine 40 mg PO DAILY 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. QUEtiapine Fumarate 200 mg PO QHS 

 
Discharge Medications:
1. Fluoxetine 40 mg PO DAILY 
2. Levothyroxine Sodium 125 mcg PO DAILY 
3. Pregabalin 100 mg PO QID 
4. QUEtiapine Fumarate 200 mg PO QHS 
5. Miconazole Powder 2% 1 Appl TP BID intertrigo/fungal infxn 
RX *miconazole nitrate 2 % apply to groin area twice a day Disp 
#*1 Pack Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure
Alcohol and Benzodiazepime Withdrawal
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with seizures in the setting of alcohol and 
benzodiazepime withdrawal.  You were initially observed in the 
ICU and then transferred to the floor for further observation.  
You were placed on a withdrawal protocol with steady tapering of 
valium.  The prospect of going to an inpatient detox program was 
offered, but you elected not to go through with it and choose to 
pursue an outpatient day program.  One potential place to 
consider is the ___ Detox Day Program.
 
Followup Instructions:
___